US08217044B2
A mixture of glycine tert-butyl ester (Alfa) (2.71 g, 20.0 mmol) and 3,3-dimethyl-butyraldehyde (Alfa) (2.21 g, 21.0 mmol) in CH2Cl2 (50 mL) was stirred at rt overnight. The reaction mixture was concentrated and the residue was dried in vacuo to give [3,3-dimethyl-but-(E)-ylideneamino]-acetic acid tert-butyl ester (4.29 g, 100%) as colorless oil which was used in the next step without further purification.

reactant | glycine tert-butyl ester | 20.0 mmol, 2.71 g | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | 3,3-dimethyl-butyraldehyde | 21.0 mmol, 2.21 g | CC(CC=O)(C)C | C6H12O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | [3,3-dimethyl-but-(E)-ylideneamino]-acetic acid tert-butyl ester | 4.29 g, 100% | C(C)(C)(C)OC(C/N=C/CC(C)(C)C)=O | C12H23NO2
